US09359625B2
1. Synthesis of 2-[(2E)-3,7-dimethylocta-2,6-dienyl]-5-pentyl-benzene-1,3-diol (Cannabigerol (CBG))
Geraniol (3 g, 0.0194 mol) and olivetol (2 g, 0.0111 mol) were dissolved in 400 mL of chloroform containing 80 mg of p-toluenesulfonic acid as catalyst and the reaction mixture was stirred at room temperature for 12 h in the dark. After 12 hours, the reaction mixture was washed with saturated sodium bicarbonate (400 mL) and then with H2O (400 mL). The chloroform layer was concentrated at 40 C under reduced pressure, and the residue obtained was chromatographed on a 2.0 cm×25 cm silica gel column using benzene (1000 mL) as the eluent to give 1.4 g (0.00442 mol)(39.9%) CBG as product.

reactant | Geraniol | 0.0194 mol, 3 g | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | olivetol | 0.0111 mol, 2 g | C1(=CC(O)=CC(CCCCC)=C1)O | C11H16O2
solvent | chloroform | 400 mL, 80 mg | C(Cl)(Cl)Cl | CHCl3
solvent | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-[(2E)-3,7-dimethylocta-2,6-dienyl]-5-pentyl-benzene-1,3-diol | C\C(=C/CC1=C(C=C(C=C1O)CCCCC)O)\CCC=C(C)C | C21H32O2
